US08193378B2
To a solution of [1-(tert-butoxycarbonyl)piperidin-4-yl]acetic acid (200 mg) in dioxane (1 mL) was added a 4 M hydrogen chloride dioxane solution (1 mL). The reaction liquid was stirred at room temperature for 15 hours, and then concentrated under reduced pressure to obtain piperidin-4-yl acetic acid hydrochloride (140 mg) as a white solid.

reactant | [1-(tert-butoxycarbonyl)piperidin-4-yl]acetic acid | 200 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(=O)O | C12H21NO4
reactant | hydrogen chloride dioxane | 4 M, 1 mL | O1CCOCC1.Cl
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | piperidin-4-yl acetic acid hydrochloride | 140 mg | Cl.N1CCC(CC1)CC(=O)O | InChI=1S/C7H13NO2.ClH/c9-7(10)5-6-1-3-8-4-2-6;/h6,8H,1-5H2,(H,9,10);1H
